US06214873B1
To a solution of dichloromethyl methyl ether (62 ml) in methylene chloride (40 ml) was added titanium tetrachloride (75 ml) over 10 minutes under a nitrogen atmosphere at 4-5° C. Then, a solution of phenethyl bromide (85 ml) in methylene chloride (50 ml) was added thereto over 50 minutes at 5-7° C. and the mixture was stirred for 5 hours while gradually raising the temperature of the mixture to room temperature. Water (200 ml) was added to the reaction mixture over 1 hour and the mixture was extracted with chloroform (200 ml). The chloroform layer was washed with water, a saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous sodium sulfate and the solvent was distilled away under reduced pressure to give a brown oily substance (167 g). The obtained brown oily substance was purified by silica gel column chromatography (eluent; hexane: ethyl acetate=20:1) to give 4-(2-bromoethyl)benzaldehyde (32.3 g) as a yellow solid, melting point 50-52° C.

reactant | dichloromethyl methyl ether | 62 ml | COC(Cl)Cl | C2H4Cl2O
reactant | phenethyl bromide | 85 ml | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | Water | 200 ml | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 75 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(2-bromoethyl)benzaldehyde | 32.3 g | BrCCC1=CC=C(C=O)C=C1 | C9H9BrO
